US06716842B2
3-[4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-(hydroxy)-phenyl]-propionic Acid
3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester (60 mg, 0.15 mmol) was dissolved in tetrahydrofuran (5 mL) and treated with LiOH (1 mL, 1M). After stirring 18 hours at ambient temperature, the reaction was evaporated and partitioned between NH4Cl (sat.) and ethyl acetate. Extraction with ethyl acetate, followed by drying over anhydrous Na2SO4, and evaporation of solvent provided 27.1 mg of the title compound. MS m/z 368 (M+H)+.

reactant | 3-{2-Hydroxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.15 mmol, 60 mg | C(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)O)=O | C23H25NO5
reactant | LiOH | 1M, 1 mL | [Li+].[OH-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-[2-(5-Methyl-2-phenyl-oxazol-4-yl)-ethoxy]-2-(hydroxy)-phenyl]-propionic Acid | 27.1 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC(=C(C=C1)CCC(=O)O)O | C21H21NO5
